US07723330B2
Step B: Preparation of N-(3-fluoro-4-(3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 50 mL round-bottomed flask was charged N-(4-(1-(4-methoxybenzyl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide (23.8 mg, 0.0360 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 60° C. until LC-MS showed that the starting material had been consumed (overnight). The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product (11.3 mg, 58%). LRMS (APCI pos): >99% purity, 254 nm, m/e 541 (M+1). 1H NMR (400 MHz, DMSO-d6) δ 13.66 (s, 1H), 11.72 (s, 1H), 8.38 (d, 1H), 8.31 (d, 1H), 8.27 (d, 1H), 8.18 (s, 1H), 8.06 (dd, 1H), 7.96 (s, 1H), 7.69 (m, 2H), 7.60 (m, 2H), 7.42 (m, 2H), 6.31 (d, 1H), 3.89 (s, 3H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 0.0360 mmol, 23.8 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C=3C(N(N=CC3)C3=CC=C(C=C3)F)=O)F)C=3C=NN(C3)C)C=C1 | C35H26F2N8O4
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 11.3 mg, 58% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C=2C=NN(C2)C)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C27H18F2N8O3
